* CP_v1 UP/DOWN current match -- pex
* Bias per CP_v1_golden.spice header: external IBIAS SINKS I_CP from VGP and SOURCES I_CP
* into VGN. I_CP = 50 uA (verification.md 2.1, confirmed 10.19 uA at phi=200ns vs 10.00 ideal).
.include /foss/designs/AUS-NZ-integration/team_src/magic/pex_work/CP_v1.pex.spice

V_VDD  VDD 0 3.3
V_VSS  VSS 0 0
V_UP   UP  0 0
V_DOWN DOWN 0 0
V_OUT  CP_OUT 0 1.65
I_PREF VGP 0 50u
I_NREF 0 VGN 50u
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.control
set filetype=ascii
alter v_up = 3.3
alter v_down = 0
dc V_OUT 0.4 2.8 0.05
wrdata cpsrc_pex.txt i(v_out)
alter v_up = 0
alter v_down = 3.3
dc V_OUT 0.4 2.8 0.05
wrdata cpsnk_pex.txt i(v_out)
.endc
.end
